US06777406B2
(±)-cis-N-phenyl-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine
Using bromobenzene and following the procedures described in EXAMPLE 17, Parts B and C, (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate was converted into (±)-cis-N-phenyl-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine, bis-trifluoroacetic acid salt, after HPLC purification (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). This material was free-based with aq ammonium hydroxide, extracted with chloroform, washed with brine, dried (K2CO3) and concentrated to the title compound of EXAMPLE 116 as the free base. 1H NMR (CDCl3) δ: 7.12 (app t, 2H, J=7.9 Hz), 6.80-6.65 (m, 4H), 6.63 (s, 1H), 5.37 (broad s, 1H), 3.37 (dd, 1H, J=11.1, 7.5 Hz), 3.30-3.10 (m, 5H), 2.95-2.75 (m, 4H), 2.73-2.65 (m, 1H), 2.58 (dd, 1H). LRMS (ES)+: 292.3 (M+H)+.

reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate | NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CN(C3)C(=O)OC(C)(C)C | C18H25N3O2
product | (±)-cis-N-phenyl-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine | C1(=CC=CC=C1)NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CNC3 | C19H21N3
